US05030727
7,9-dimethyl-5H-thiazolo-(2,3-b)-quinazolin-5-one
A mixture of 13.1 g of 3,5-dimethylanthranilamide and 13.1 g of 2-bromothiazole was heated for 30 minutes at 155° C. and stirred for 12 hours. After the mixture had cooled to 25° C., the pH was adjusted to 9 by adding water and 25% strength ammonia solution, while stirring, and the resulting solution was stirred for 10 minutes. The solution was then suction filtered and the filtrate was washed with methanol and dried, 10.5 g of the above compound was obtained; m.p. 190°-192° C. The methanol filtrate was concentrated, taken up in ethyl acetate and chromatographed over aluminum oxide. After concentration a further 4.4 g of the above compound were obtained; total yield: 81%.

reactant | 3,5-dimethylanthranilamide | 13.1 g | CC1=C(C(C(=O)N)=CC(=C1)C)N | C9H12N2O
reactant | 2-bromothiazole | 13.1 g | BrC=1SC=CN1 | C3H2BrNS
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 7,9-dimethyl-5H-thiazolo-(2,3-b)-quinazolin-5-one | 10.5 g, yield: 81% | CC=1C=C2C(N3C(=NC2=C(C1)C)SC=C3)=O | C12H10N2OS
